US06998412B2
Methyl 2-(2-thenoylamino)acetate
To 250 ml of a suspension of 12.56 g of methyl 2-aminoacetate hydrochloride in dichloromethane, 20.24 g of triethylamine was added, and stirred for 30 minutes at room temperature. After ice-cooling, 20 ml of a solution of 14.66 g of 2-thenoyl chloride in dichloromethane was added dropwise slowly. The ice-bath was removed and the mixture was stirred for 14 hours at room temperature. The precipitated crystals were collected by filtration and washed with dichloromethane. The solvent was removed from the filtrate by distillation under reduced pressure. To the residue was added t-butyl methyl ether to precipitate. The both products were combined to provide 17.20 g of the objective compound as brownish crystals.

reactant | methyl 2-aminoacetate hydrochloride | 12.56 g | Cl.NCC(=O)OC
reactant | triethylamine | 20.24 g | C(C)N(CC)CC | C6H15N
reactant | 2-thenoyl chloride | 14.66 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 2-(2-thenoylamino)acetate | 17.20 g | C1(=CC=CS1)C(=O)NCC(=O)OC | C8H9NO3S
